US06180627B2
Benzyl 2-[3-chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate
A stirred solution of benzyl 2-[3-chloro-2-methyl-5-(3 [(methylamino)methyl]phenethylamino)-6-oxo-1(6H)-pyrazinyl]acetate (preparation 19) (0.38 g, 0.83 mmol) in CH2Cl2 (10 ml) was treated with formaldehyde (0.31 ml). After stirring at room temperature for 45 mins, the resultant cloudy -mixture was treated with sodium triacetoxyborohydride (253 mg, 1.19 mmol) and stirred at room temperature for a further 2 days. The reaction mixture was diluted with CH2Cl2 (200 ml) and washed with sat. aq NaHCO3, sat aq brine and dried over MgSO4. Removal of the drying agent by filtration followed by evaporation of the solvent gave a crude solid which was purified by chromatography (SiO2, gradient elution with 100% CH2Cl2; 95:5 CH2Cl2:MeOH; 90:10 CH2Cl2:MeOH) to give the desired product (0.30 g, 77%). 1H NMR (CDCl3) δ 2.20 (s, 3H), 2.25 (s, 6H), 2.90 (t, 2H), 3.40 (s, 2H), 3.70 (m, 2H), 4.80 (s, 2H), 5.20 (s, 2H), 6.10 (m, br, 1H), 7.10-7.20 (m, 3H), 7.25 (m, 1H), 7.35 (m, 5H). LRMS m/z=469.2, 471.2 (M+1).

reactant | benzyl 2-[3-chloro-2-methyl-5-(3 [(methylamino)methyl]phenethylamino)-6-oxo-1(6H)-pyrazinyl]acetate | 0.83 mmol, 0.38 g | ClC1=C(N(C(C(=N1)NCCC1=CC(=CC=C1)CNC)=O)CC(=O)OCC1=CC=CC=C1)C | C24H27ClN4O3
reactant | formaldehyde | 0.31 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.19 mmol, 253 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 2-[3-chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 0.30 g, 77% | ClC1=C(N(C(C(=N1)NCCC1=CC(=CC=C1)CN(C)C)=O)CC(=O)OCC1=CC=CC=C1)C | C25H29ClN4O3
